US04943647
R. Detty et al. in J. Org. Chem. 1982, 47, 1354-1356 reiterated the above statement about the substantial nonreactivity of lithium sulfide and chlorotrimethylsilane and indicated that commercially available dilithium sulfide and chlorotrimethylsilane, when refluxed for seventy-two hours in tetrahydrofuran, gave only a 45% yield of hexamethyldisilthiane, also called "bis(trimethylsilyl)sulfide.

reactant | lithium sulfide | [S-2].[Li+].[Li+]
reactant | chlorotrimethylsilane | Cl[Si](C)(C)C | C3H9ClSi
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | hexamethyldisilthiane | 45% yield | C[Si](S[Si](C)(C)C)(C)C | C6H18SSi2
